US05618467
Fluorescent Hydroxyquinoline-5-sulfonic Acid Gels and Solids
Intense yellow/green fluorescence is observed from gels and solids made combining 10 gm lysine monohydrate dissolved in 28 gm water, 4.96 gm ZnO, 12.6 citric acid and 0.1 gm 8 hydroxyquinoline-5-sulfonic acid monohydrate. No phosphorescence is observed.

reactant | lysine monohydrate | 10 gm | O.N[C@@H](CCCCN)C(=O)O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | hydroxyquinoline-5-sulfonic acid monohydrate | O.OC1=NC=2C=CC=C(C2C=C1)S(=O)(=O)O
solvent | water | 28 gm | O | H2O
product | Hydroxyquinoline-5-sulfonic Acid | OC1=NC=2C=CC=C(C2C=C1)S(=O)(=O)O | C9H7NO4S
